US05292760
2-Dimethylamino-N-formyl-N-methyl-α-(3-methyl-2-thienyl)benzeneethanamine
A solution of 5.0 g of 2-amino-N-formyl-N-methyl-α-(3-methyl-2-thienyl)benzeneethanamine in 48 ml of acetonitrile was treated with 6.5 ml of a 37% formaldehyde solution and 1.9 g of sodium cyanoborohydride. The mixture was stirred for 1.5 hr and then concentrated. The residue was dissolved in 75 ml of ether and washed with 1N potassium hydroxide solution and with saturated brine. The ether solution was dried over anhydrous potassium carbonate and concentrated. The residue was purified by Preparative HPLC (Waters Associates Prep LC/System 500, silica gel, eluted with ethyl acetate, 200 ml/min, Glo-Mac Model 80-800 UV detector). The appropriate fractions were collected and concentrated to give 3.8 g of product, as an oil.

reactant | 2-amino-N-formyl-N-methyl-α-(3-methyl-2-thienyl)benzeneethanamine | 5.0 g | NC1=C(C=CC=C1)CC(N(C)C=O)C=1SC=CC1C | C15H18N2OS
reactant | formaldehyde | C=O | CH2O
reactant | sodium cyanoborohydride | 1.9 g | C(#N)[BH3-].[Na+]
solvent | acetonitrile | 48 ml | C(C)#N | C2H3N
product | 2-Dimethylamino-N-formyl-N-methyl-α-(3-methyl-2-thienyl)benzeneethanamine | 3.8 g | CN(C1=C(C=CC=C1)CC(N(C)C=O)C=1SC=CC1C)C | C17H22N2OS
